Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3],6.16149865236
[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.9919892605800005
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],2.40050599722
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14].[H:1][C:2]([H:11])[H:15],1.79795733309
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4][H:5])[C:8]([H:9])([H:10])[H:11].[C:6][H:7],7.28096755633
[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.71393997679
[H:10].[H:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.99301664491
[H:1].[O:2]=[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.6746825657100002
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],3.41274795115
[H:1][C:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[O:10][H:11],0.30630701313
[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.91487189032
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.63692068706
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6])[C:8](=[O:7])[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]1[C:6]2[O:7][C@:8]12[H:9],0.0966267414296
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.62804004356
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.52419457361
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:4],1.16515935388
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],2.1739191867
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9],1.7846382656200002
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5],1.86522522462
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],6.64369444888
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[O:7])=[C:8]([H:9])[H:10],-1.81864778617
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],5.3845473478
[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],0.90358222359
[H:10].[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.6123319948
[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.5269173875100002
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10],7.7415456099
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.33526870698
